US06921821B2
6-Difluoromethoxy-4-(1-naphthalen-2-ylmethyl-piperidin-4-ylamino)-chromen-2-one (II-126)
4,6-Dihydroxy-chromen-2-one (500 mg, 2.790 mmol) was dissolved in iPrOH (50 mL). KOH pellets (1.57 g, 27.90 mmol) were added and this mixture was stirred at 25° C. for 5 min. ClCHF2 (g) was bubbled through the reaction mixture for 5 min. The reaction was stirred an additional 10 min. at 25° C. followed by stirring for 30 min. at 60° C. The reaction mixture was diluted with EtOAc and washed with 1 N HCl (aq). The organic layer was dried over Na2SO4, concentrated, and partially purified via silica gel chromatography (20% CH3OH in CH2Cl2) to produce 490 mg of crude 6-difluoromethoxy-4-hydroxy-chromen-2-one. 626 mg of crude 6-difluoromethoxy-4-hydroxy-chromen-2-one was dissolved in CH2Cl2 (20 mL) under nitrogen, cooled to 0° C., and N,N-diisopropylethylamine (2.51 mL, 14.4 mmol) was added. Triflic anhydride (1.31 mL, 7.81 mmol) was added dropwise and the solution was stirred 30 min. at 0° C. The crude product was partially purified via silica gel chromatography (20% EtOAc in hexanes) to produce 682 mg of crude trifluoro-methanesulfonic acid 6-difluoromethoxy-2-oxo-2H-chromen-4-yl ester. 600 mg of crude trifluoro-methanesulfonic acid 6-difluoromethoxy-2-oxo-2H-chromen-4-yl ester was dissolved in CHCl3 (15 mL). 1-Naphthalen-2-ylmethyl-piperidin-4-ylamine dihydrochloride salt (448 mg, 1.43 mmol) and N,N-diisopropylethylamine (0.75 mL, 4.30 mmol) were added and the resulting solution was stirred at 50° C. for 3 h. The reaction mixture was diluted with EtOAc and washed with H2O (3×) followed by saturated aqueous NaCl (1×). The combined organics were dried over Na2SO4, concentrated, and purified on a C-18 RP HPLC system to afford 50 mg of the title compound as a white solid. MS (ESI(+)Q1MS) m/z 451 (M+H)+; 1H NMR (300 MHz, CD3OD) δ ppm 7.77-7.91 (m, 5H), 7.32-7.54 (m, 5H), 6.86 (t, J=73 Hz, 1H), 5.34 (s, 1H), 3.74 (s, 2H), 3.48-3.60 (m, 1H), 2.98-3.08 (m, 2H), 2.21-2.33 (m, 2H), 2.00-2.10 (m, 2H), 1.69-1.83 (m, 2H). Compound II-125 was prepared similarly.

reactant | trifluoro-methanesulfonic acid 6-difluoromethoxy-2-oxo-2H-chromen-4-yl ester | 600 mg | FC(OC=1C=C2C(=CC(OC2=CC1)=O)OS(=O)(=O)C(F)(F)F)F | C11H5F5O6S
reactant | 1-Naphthalen-2-ylmethyl-piperidin-4-ylamine dihydrochloride salt | 1.43 mmol, 448 mg | Cl.Cl.C1=C(C=CC2=CC=CC=C12)CN1CCC(CC1)N
reactant | N,N-diisopropylethylamine | 4.30 mmol, 0.75 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CHCl3 | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Difluoromethoxy-4-(1-naphthalen-2-ylmethyl-piperidin-4-ylamino)-chromen-2-one | 50 mg | FC(OC=1C=C2C(=CC(OC2=CC1)=O)NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1)F | C26H24F2N2O3
